US07855297B2
By the reaction and treatment in the same manner as in Example 142 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.2 g) and 3-hydroxymethyl-6-(2-methoxyethoxy)pyridine (0.55 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[6-(2-methoxyethoxy)pyridin-3-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.07 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.2 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC=1C=NC(=CC1)C(C)C | C26H28N2O2
reactant | 3-hydroxymethyl-6-(2-methoxyethoxy)pyridine | 0.55 g | OCC=1C=NC(=CC1)OCCOC | C9H13NO3
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[6-(2-methoxyethoxy)pyridin-3-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.07 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NC(=CC1)OCCOC)C=1C=NC(=CC1)C(C)C | C35H39N3O4
